US06921753B2
6-[(1 -Naphthylmethyl)amino]-9H-purine-2-carbonitrile
Tetrakistriphenylphosphine palladium (1.1 g, 0.95 mmol) was added to a solution of 2-chloro-N-(1-naphthylmethyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine (7.5 g, 19 mmol) (Preparation 9) , zinc cyanide (1.4 g, 11.9 mmol) and N-ethyl-N-isopropyl-2-propanamine (4 ml, 23 mmol) in N′N′-dimethylformamide (80 ml). The reaction mixture was heated to 100° C. for 16 hours. The reaction mixture was allowed to cool to room temperature and ethyl acetate (250 ml) was added. The resulting mixture was extracted with aqueous sodium hydroxide solution (2M, 100 ml). The sodium hydroxide layer was extracted with more ethyl acetate (50 ml). The ethyl acetate layers were combined and washed with water (50 ml) and then dried over anhydrous magnesium sulphate. The solvent was removed under reduced pressure, the residue was dissolved in dichloromethane (100 ml) and the solvent was removed under reduced pressure again. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol (99:2 by volume) increasing in polarity to dichloromethane:methanol (90:10 by volume). The solvent was removed under reduced pressure to give the title compound (1.8 g) as a foam. The major product of this reaction was actually 6-[(1-naphthylmethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purine-2-carbonitrile (2.7 g).

reactant | 2-chloro-N-(1-naphthylmethyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine | 19 mmol, 7.5 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NCC1=CC=CC2=CC=CC=C12 | C21H20ClN5O
reactant | N-ethyl-N-isopropyl-2-propanamine | 23 mmol, 4 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 11.9 mmol, 1.4 g | [C-]#N.[Zn+2].[C-]#N
product | 6-[(1 -Naphthylmethyl)amino]-9H-purine-2-carbonitrile | 1.8 g | C1(=CC=CC2=CC=CC=C12)CNC1=C2N=CNC2=NC(=N1)C#N | C17H12N6
